US09193723B2
4-(1-isobutyl-1H-pyrazol-4-yl)aniline
A suspension of 4-bromoaniline (406 mg, 2.362 mmol), 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (650 mg, 2.60 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II), complex with dichloromethane (57.9 mg, 0.071 mmol) and sodium carbonate (526 mg, 4.96 mmol) in a 6:2:1 mixture of tetrahydrofuran/water/methanol (12 ml) in a microwave vial was subjected to three vacuum/nitrogen purge cycles. The vial was sealed and heated in an oil bath at 85° C. overnight. The mixture was dissolved in a mixture of ethyl acetate (45 ml) and water (20 ml), and the separated aqueous layer was extracted with ethyl acetate (20 ml). The combined organic layers were washed with brine (20 ml), dried with magnesium sulfate, filtered and concentrated. Normal phase chromatography provided the title compound.

reactant | 4-bromoaniline | 2.362 mmol, 406 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.60 mmol, 650 mg | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | dichloromethane | 0.071 mmol, 57.9 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 4.96 mmol, 526 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | tetrahydrofuran water methanol | 12 ml | O1CCCC1.O.CO
product | 4-(1-isobutyl-1H-pyrazol-4-yl)aniline | C(C(C)C)N1N=CC(=C1)C1=CC=C(N)C=C1 | C13H17N3
